US05492925
Preparation of 3,4,5-Trichloro-2-thiophenecarboxaldehyde
Butyllithium (2.5 molar in tetrahydrofuran, 3.96 mL, 9.9 mmol) is added to a solution of tetrachlorothiophene (2.00 g, 9.01 mmol) in tetrahydrofuran at 0° C. The reaction mixture is stirred at 0° C. for 30 minutes, warmed to room temperature over 45 minutes, treated with N,N-dimethylformamide (0.79 g, 10.8 mmol), stirred for three hours, poured into one molar hydrochloric acid at 4° C. and extracted with ether. The combined organic extracts are washed sequentially with water and brine, dried over MgSO4 and concentrated in vacuo to obtain a brown solid. Flash chromatography of the solid using silica gel and a 5% ethyl acetate in hexane solution gives a beige solid which is recrystallized from ethyl acetate and hexane to obtain the title product as beige needles (1.63 g, 84%, mp 81°-82° C.).

reactant | Butyllithium | 9.9 mmol, 2.5 molar, 3.96 mL | C(CCC)[Li]
reactant | tetrachlorothiophene | 9.01 mmol, 2.00 g | ClC1=C(C(=C(S1)Cl)Cl)Cl | C4Cl4S
reactant | N,N-dimethylformamide | 10.8 mmol, 0.79 g | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | one molar | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3,4,5-Trichloro-2-thiophenecarboxaldehyde | 1.63 g, 84% | ClC1=C(SC(=C1Cl)Cl)C=O | C5HCl3OS
